US06407122B1
(+) Threo 1-Benzoylaminomethyl-1-(4-benzylpiperidin-1-yl)-2-hydroxy-2-(2-aminobenzothiazol-6-yl)-ethane
To a stirred solution of 5.3 g of (+) threo 1-(p-amino-phenyl)-2-(4-benzylpiperidin-1-yl)-3-benzoylaminopropan-1-ol and 4.6 g of KSCN in 100 ml of glacial acetic acid was added dropwise a solution of 1.95 g of Br2 in 25 ml of glacial acetic acid at room temperature. After stirring for 2 h., the yellow sospension was filtered and the solution was poured into 100 ml of concentrated ammonium solution. The cloudy basic solution was extracted with ethyl acetate dried and evaporated. The residue was chromatographed on silica gel elutin with ethylacetate/cyclohexane ½, providing providing 3.7 g of the title compound, m.p. 160-162° C., [α]20D=+20.3±0.5.

reactant | 1-(p-amino-phenyl)-2-(4-benzylpiperidin-1-yl)-3-benzoylaminopropan-1-ol | NC1=CC=C(C=C1)C(C(CNC(C1=CC=CC=C1)=O)N1CCC(CC1)CC1=CC=CC=C1)O | C28H33N3O2
reactant | KSCN | 4.6 g | C(#N)[S-].[K+]
reactant | Br2 | 1.95 g | BrBr | Br2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 1-Benzoylaminomethyl-1-(4-benzylpiperidin-1-yl)-2-hydroxy-2-(2-aminobenzothiazol-6-yl)-ethane | 3.7 g | C(C1=CC=CC=C1)(=O)NCC(C(C1=CC2=C(N=C(S2)N)C=C1)O)N1CCC(CC1)CC1=CC=CC=C1 | C29H32N4O2S
